US08466186B2
(c) N-{4-Chloro-3-[5-chloro-1-methyl-6-(4-methyl-piperazin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanecarboxamide
The title compound was prepared from N-(4-chloro-3-isothiocyanato-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide (176 mg, 0.5 mmol), 5-chloro-2-methylamino-4-(4-methyl-piperazin-1-yl)-aniline (134 mg, 0.5 mmol) and EDC (93 μL, 0.5 mmol) in MeCN (5 mL) in analogy to example 1 step (g).

reactant | N-(4-chloro-3-isothiocyanato-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide | 0.5 mmol, 176 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S | C13H10ClF3N2OS
reactant | 5-chloro-2-methylamino-4-(4-methyl-piperazin-1-yl)-aniline | 0.5 mmol, 134 mg | ClC=1C(=CC(=C(N)C1)NC)N1CCN(CC1)C | C12H19ClN4
reactant | EDC | 0.5 mmol, 93 μL
solvent | MeCN | 5 mL | CC#N | C2H3N
product | N-{4-Chloro-3-[5-chloro-1-methyl-6-(4-methyl-piperazin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanecarboxamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCN(CC2)C | C25H27Cl2F3N6O
